US04012367
To a solution of 61.10 parts of β-benzyl N-benzyloxycarbonyl-L-aspartyl-D-alanine amide in 800 parts by volume of 75% acetic acid is added 6 parts of palladium black metal catalyst, and the resulting mixture is shaken with hydrogen at room temperature at atmospheric pressure for about 6.5 hours. The catalyst is removed by filtration, and the solvents removed by distillation under reduced pressure to obtain an oil. This oil is triturated with water and stripped under reduced pressure three times to afford a solid. The solid is then triturated with ethanol, filtered, and dried under vacuum to yield L-aspartyl-D-alanine amide monohydrate. This product is represented by the following structural formula.

reactant | β-benzyl N-benzyloxycarbonyl-L-aspartyl-D-alanine amide | C(C1=CC=CC=C1)C([C@H](NC(=O)OCC1=CC=CC=C1)C(=O)N[C@H](C)C(=O)N)C(O)=O | C22H25N3O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium black | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | L-aspartyl-D-alanine amide monohydrate | O.N[C@@H](CC(O)=O)C(=O)N[C@H](C)C(=O)N | InChI=1S/C7H13N3O4.H2O/c1-3(6(9)13)10-7(14)4(8)2-5(11)12;/h3-4H,2,8H2,1H3,(H2,9,13)(H,10,14)(H,11,12);1H2/t3-,4+;/m1./s1
